US09079888B2
Step (ii): Preparation of tert-Butyl 4-(4-amino-3-fluoro phenoxy)piperidine-1-carboxylate
tert-Butyl 4-(3-fluoro-4-nitro phenoxy)piperidine-1-carboxylate (9.22 g, 0.027 moles) was hydrogenated over 10% Pd/C (9.22 g) in methanol (92.2 mL) by bubbling hydrogen gas for 5 hours at ambient temperature. The mixture was filtered through a pad of celite, and the filtrate was concentrated under vacuum to obtain the title compound 7.54 g (Yield: 90%). The product was used as such in the next step without further purification.

reactant | tert-Butyl 4-(3-fluoro-4-nitro phenoxy)piperidine-1-carboxylate | 0.027 moles, 9.22 g | FC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C16H21FN2O5
solvent | methanol | 92.2 mL | CO | CH4O
catalyst | Pd/C | 9.22 g | [Pd] | Pd
product | tert-Butyl 4-(4-amino-3-fluoro phenoxy)piperidine-1-carboxylate | 7.54 g, Yield: 90% | NC1=C(C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)F | C16H23FN2O3
